US04067723
Thionyl chloride (100 ml.) was added to a solution of 1-(2-fluorophenyl)ethanol [described by McCall, J.A.C.S. 74, 4809 (1952)] (105 g.) in dry chloroform (200 ml.). After the vigorous initial reaction had subsided, the solution was heated at reflux on a steam bath for 30 minutes. The excess of thionyl chloride was removed by repeated co-distillation with dry toluene and the residue was diluted with diethyl ether, washed with water (2 × 100 ml.), dried over sodium sulphate, filtered and evaporated to a yellow liquid, which was distilled to give 1-(2-fluorophenyl)ethyl chloride (73.2 g.), b.p. 70°-75° C./20 mm.Hg, as a pale yellow oil.

reactant | Thionyl chloride | 100 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 1-(2-fluorophenyl)ethanol | 105 g | FC1=C(C=CC=C1)C(C)O | C8H9FO
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-fluorophenyl)ethyl chloride | 73.2 g | FC1=C(C=CC=C1)C(C)Cl | C8H8ClF
